US05000775
Ethyl 2-(dimethylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate
A reaction vessel was charged with 4.17 g (0.03 mol) of para-nitrophenol, 50 ml of dry dimethylformamide containing dimethylamine as impurity, and potassium carbonate. After stirring of this mixture at ambient temperature, there was added 4.86 g (0.02 mol) of ethyl 2-chloro-4-trifluoromethyl-5-oxazolecarboxylate. The reaction mixture was stirred at ambient temperature for 24 hours. The resulting yellow mixture was extracted with ethyl ether and water. The organic phase was washed five times successively with 5% sodium hydroxide and five times with water, then dried with magnesium sulfate, and concentrated under reduced pressure to yield 2.2 g of a yellow solid which was recrystallized in methylcyclohexane to yield 1.7 g of a white powder. Chromatographic separation on silica gel using dichloroethane as eluent yielded 0.96 g of a light yellow powder product (m.p.=53°-55° C.) identified in Table I.

reactant | para-nitrophenol | 0.03 mol, 4.17 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | dimethylamine | CNC | C2H7N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-chloro-4-trifluoromethyl-5-oxazolecarboxylate | 0.02 mol, 4.86 g | ClC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(dimethylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate | 2.2 g | CN(C=1OC(=C(N1)C(F)(F)F)C(=O)OCC)C | C9H11F3N2O3
